US04497813
A solution of 13.6 g of 6-(2-benzylaminopropoxy)-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one and 10.4 g of 4-(2,3-epoxypropoxy)-N-methylbenzamide in 80 ml of isopropanol is refluxed for 30 hours. The residue remaining after the solvent has been evaporated off is divided between ether and 2N hydrochloric acid. The acidic, aqueous phase is separated off, and, whilst cooling with ice, rendered alkaline with approximately 10% aqueous ammonia solution and extracted with ethyl acetate. By separating off, drying (MgSO4) and concentrating the ethyl acetate extract by evaporation, the crude 1-[N-[2-(2,3-dihydro-2,2-dimethyl-4-oxo-4H-1,3-benzoxazin-6-yloxy)-1-methylethyl]benzylamino]-3-(4-methylcarbamoylphenoxy)propan-2-ol is obtained as an oil which may be used without further purification for catalytic debenzylation.

reactant | 6-(2-benzylaminopropoxy)-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one | 13.6 g | C(C1=CC=CC=C1)NC(COC=1C=CC2=C(C(NC(O2)(C)C)=O)C1)C | C20H24N2O3
reactant | 4-(2,3-epoxypropoxy)-N-methylbenzamide | 10.4 g | O1C(COC2=CC=C(C(=O)NC)C=C2)C1 | C11H13NO3
solvent | isopropanol | 80 ml | C(C)(C)O | C3H8O
product | 1-[N-[2-(2,3-dihydro-2,2-dimethyl-4-oxo-4H-1,3-benzoxazin-6-yloxy)-1-methylethyl]benzylamino]-3-(4-methylcarbamoylphenoxy)propan-2-ol | CC1(OC2=C(C(N1)=O)C=C(C=C2)OCC(C)N(CC(COC2=CC=C(C=C2)C(NC)=O)O)CC2=CC=CC=C2)C | C31H37N3O6
